US06670370B1
14 g of dextromethorphan free base was mixed with 12 g of water and 36 g of tannate acid. The mixture was heated with stirring, to 90° C. and maintained at such temperature for several minutes. After cooling to room temperature, the reaction product was dried and powdered. A sample of the powdered product was mixed with methylene chloride, but no dissolution occurred, indicating that the reaction product did not consist of dextromethorphan free base. A sample of the reaction product was dried to a moisture (K.F.) level of about 4% and it was determined that such material had a softening point of about 100° C. (in comparison to the sharp melting point of 123° C. for dextromethorphan-HBr, the melting point of 109.5-112.5° C. for dextromethorphan free base and the decomposition point of 210-215° C. for tannic acid). The reaction product was also subjected to FTIR analysis and the spectrum obtained thereby was quite different from that of either dextromethorphan free base or tannic acid (or dextromethorphan-HBr). Therefore, it is clear that when dextromethorphan free base is reacted with tannic acid in accordance with the process of the invention, a unique type of dextromethorphan tannate product is obtained.

reactant | dextromethorphan | 14 g | CN1CC[C@@]23CCCC[C@@H]2[C@@H]1CC4=C3C=C(C=C4)OC | C18H25NO
reactant | tannic acid | C1=C(C=C(C(=C1O)O)O)C(=O)OC=2C=C(C=C(C2O)O)C(=O)OC[C@@H]3[C@H]([C@@H]([C@H]([C@@H](O3)OC(=O)C=4C=C(C(=C(C4)OC(=O)C=5C=C(C(=C(C5)O)O)O)O)O)OC(=O)C=6C=C(C(=C(C6)OC(=O)C=7C=C(C(=C(C7)O)O)O)O)O)OC(=O)C=8C=C(C(=C(C8)OC(=O)C=9C=C(C(=C(C9)O)O)O)O)O)OC(=O)C=1C=C(C(=C(C1)OC(=O)C=1C=C(C(=C(C1)O)O)O)O)O | C76H52O46
reactant | dextromethorphan HBr | CN1CC[C@@]23CCCC[C@@H]2[C@@H]1CC4=C3C=C(C=C4)OC.Br
solvent | water | 12 g | O | H2O
product | dextromethorphan tannate | CN1CC[C@@]23CCCC[C@@H]2[C@@H]1CC4=C3C=C(C=C4)OC.C1=C(C=C(C(=C1O)O)O)C(=O)OC2=CC(=CC(=C2O)O)C(=O)OC[C@@H]3[C@H]([C@@H]([C@H]([C@@H](O3)OC(=O)C4=CC(=C(C(=C4)OC(=O)C5=CC(=C(C(=C5)O)O)O)O)O)OC(=O)C6=CC(=C(C(=C6)OC(=O)C7=CC(=C(C(=C7)O)O)O)O)O)OC(=O)C8=CC(=C(C(=C8)OC(=O)C9=CC(=C(C(=C9)O)O)O)O)O)OC(=O)C1=CC(=C(C(=C1)OC(=O)C1=CC(=C(C(=C1)O)O)O)O)O | InChI=1S/C76H52O46.C18H25NO/c77-32-1-22(2-33(78)53(32)92)67(103)113-47-16-27(11-42(87)58(47)97)66(102)112-21-52-63(119-72(108)28-12-43(88)59(98)48(17-28)114-68(104)23-3-34(79)54(93)35(80)4-23)64(120-73(109)29-13-44(89)60(99)49(18-29)115-69(105)24-5-36(81)55(94)37(82)6-24)65(121-74(110)30-14-45(90)61(100)50(19-30)116-70(106)25-7-38(83)56(95)39(84)8-25)76(118-52)122-75(111)31-15-46(91)62(101)51(20-31)117-71(107)26-9-40(85)57(96)41(86)10-26;1-19-10-9-18-8-4-3-5-15(18)17(19)11-13-6-7-14(20-2)12-16(13)18/h1-20,52,63-65,76-101H,21H2;6-7,12,15,17H,3-5,8-11H2,1-2H3/t52-,63-,64+,65-,76+;15-,17+,18+/m11/s1
